US05028617
2-(2-Ethoxyethoxy)-pyridine-5-aldehyde
A total of 16 g of manganese dioxide is added in portions to a boiling solution of 8 g (40.6 mmol) of [2-(2-ethoxyethoxy)-5-pyridyl]-methanol in 200 ml of toluene within two hours. The mixture is then filtered hot and evaporated. Pale yellow oil, yield 7.1 g (90% of theory).

reactant | [2-(2-ethoxyethoxy)-5-pyridyl]-methanol | 40.6 mmol, 8 g | C(C)OCCOC1=NC=C(C=C1)CO | C10H15NO3
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
catalyst | manganese dioxide | 16 g | [O-2].[O-2].[Mn+4]
product | 2-(2-Ethoxyethoxy)-pyridine-5-aldehyde | C(C)OCCOC1=NC=C(C=C1)C=O | C10H13NO3
